US04294960
Ethyl 2-iso-butoxyimino-4-chloro-3-oxobutyrate (syn isomer, 31.9 g.), thiourea (9.72 g.), sodium acetate 3-hydrate (17.4 g.), ethanol (120 ml.) and water (80 ml.) were treated in a similar manner to that of Example F-(3) to give ethyl 2-(2-aminothiazol-4-yl)-2-iso-butoxyiminoacetate (syn isomer, 17.6 g.), mp 122° to 124° C.

reactant | Ethyl 2-iso-butoxyimino-4-chloro-3-oxobutyrate | 31.9 g | C(C(C)C)ON=C(C(=O)OCC)C(CCl)=O | C10H16ClNO4
reactant | thiourea | 9.72 g | NC(=S)N | CH4N2S
reactant | ethanol | 120 ml | C(C)O | C2H6O
solvent | water | 80 ml | O | H2O
product | ethyl 2-(2-aminothiazol-4-yl)-2-iso-butoxyiminoacetate | 17.6 g | NC=1SC=C(N1)C(C(=O)OCC)=NOCC(C)C | C11H17N3O3S
